US04571398
2-Oxo-4-[3-[4-(piperidinomethyl)pyrid-2-yloxy]propylamino]1,2-dihydroquinazoline
3-[4-(Piperidinomethyl)pyrid-2-yloxy]propylamine (2.03 g) and 2-oxo-4-thiono-1,2,3,4-tetrahydroquinazoline (1.24 g) were stirred in dimethylformamide (5 ml) at ambient temperature for 5 days. The reaction mixture was filtered to afford a solid that was washed with cold dimethylformamide and diethyl ether to yield the title product (1.25 g), m.p. 189°-192° C. (recrystallised from isopropanol).

reactant | 3-[4-(Piperidinomethyl)pyrid-2-yloxy]propylamine | 2.03 g | N1(CCCCC1)CC1=CC(=NC=C1)OCCCN | C14H23N3O
reactant | 2-oxo-4-thiono-1,2,3,4-tetrahydroquinazoline | 1.24 g | O=C1NC2=CC=CC=C2C(N1)=S | C8H6N2OS
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-Oxo-4-[3-[4-(piperidinomethyl)pyrid-2-yloxy]propylamino]1,2-dihydroquinazoline | O=C1NC2=CC=CC=C2C(=N1)NCCCOC1=NC=CC(=C1)CN1CCCCC1 | C22H27N5O2
